US05286736
6-[3-(4-Chlorophenoxyacetylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid
2.25 g of methyl 6-(3-aminophenyl)-6-(3-pyridyl)-hex-5-enoate are dissolved in 30 ml of methylene chloride. At 0° C., 1.65 g of 4-chlorophenoxyacetic acid chloride and 2.5 ml of triethylamine are added successively to this solution which is then stirred for 2 hours at ambient temperature. The reaction mixture is washed with water and then evaporated down. The residue is dissolved in a mixture of 20 ml of ethanol and 16 ml of 0.5N sodium hydroxide solution and stirred for 24 hours at ambient temperature. The reaction mixture is evaporated down at ambient temperature, water is added and the resulting mixture is washed with ethyl acetate. The aqueous phase is neutralised by the addition of citric acid and extracted with ethyl acetate. The organic phase is washed with water, dried and evaporated down and the residue is recrystallised from ethyl acetate/diisopropyl ether.

reactant | methyl 6-(3-aminophenyl)-6-(3-pyridyl)-hex-5-enoate | 2.25 g | NC=1C=C(C=CC1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C18H20N2O2
reactant | 4-chlorophenoxyacetic acid chloride | 1.65 g | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-[3-(4-Chlorophenoxyacetylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid | ClC1=CC=C(OCC(=O)NC=2C=C(C=CC2)C(=CCCCC(=O)O)C=2C=NC=CC2)C=C1 | C25H23ClN2O4
